US08217064B2
To a stirred solution of ethyl 2-(4-amino-3-(cyclopropylmethoxy)phenyl)acetate (1.2 g, 4.0 mmol) in dry CCl4 (60 mL), NCS (0.427 g, 3.2 mmol) was added at 0° C. The reaction mixture was allowed to stir for 3 h at room temperature. The reaction mixture was diluted with water and extracted with DCM (2×50 mL). The combined organic layers were dried over Na2SO4, filtered and the volatiles removed in vacuo. The crude reaction mixture was purified by column chromatography to give ethyl 2-(4-amino-3-chloro-5-(cyclopropylmethoxy)phenyl)acetate (920 mg) as a yellow solid.

reactant | ethyl 2-(4-amino-3-(cyclopropylmethoxy)phenyl)acetate | 4.0 mmol, 1.2 g | NC1=C(C=C(C=C1)CC(=O)OCC)OCC1CC1 | C14H19NO3
reactant | NCS | 3.2 mmol, 0.427 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CCl4 | 60 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | ethyl 2-(4-amino-3-chloro-5-(cyclopropylmethoxy)phenyl)acetate | 920 mg | NC1=C(C=C(C=C1OCC1CC1)CC(=O)OCC)Cl | C14H18ClNO3
